US06063806
N-(1-Octyl-5-hydroxymethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide
N-(5-Hydroxymethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide (1.5 g) was dissolved in DMF (15 ml) and 1-iodooctane (2.6 g) and K2CO3 (1.5 g) were added, which was followed by stirring under a nitrogen atmosphere at 50° C. for 2 hr. AcOEt (200 ml) was added, and the mixture was washed with water and dried over anhydrous sodium sulfate. AcOEt was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: CHCl3 /MeOH=1/0-10/1) to give 1.0 g of the title compound.

reactant | N-(5-Hydroxymethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 1.5 g | OCC=1C(=C2CCNC2=C(C1C)NC(C(C)(C)C)=O)C | C16H24N2O2
reactant | 1-iodooctane | 2.6 g | ICCCCCCCC | C8H17I
reactant | K2CO3 | 1.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | AcOEt | 200 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-(1-Octyl-5-hydroxymethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 1.0 g | C(CCCCCCC)N1CCC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)CO)C | C24H40N2O2
